US07342118B2
2-[2-(3,5-Difluoro-phenyl)-2-hydroxy-acetylamino]-pentanoic acid [1-(1-ethyl-propyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1-ethyl-propyl)-1H-imidazol-4-yl]-amide was coupled with (3,5-Difluoro-phenyl)-hydroxy-acetic acid to provide the title compound: C13 NMR (100 MHz, CDCl3) 10.7, 13.7, 13.7, 19.0, 19.1, 35.5, 35.7, 52.9, 53.2, 62.9, 73.4, 73.5, 103.4, 103.7, 105.0, 105.2, 109.6, 109.8, 109.9, 110.1, 132.5, 132.6, 137.4, 137.5, 144.1, 161.7, 161.9, 164.3, 169.2, 169.6, 171.8, 172.0; MS 423.21 m/z (M+1).

reactant | 2-Amino-pentanoic acid [1-(1-ethyl-propyl)-1H-imidazol-4-yl]-amide | C(C)C(CC)N1C=NC(=C1)NC(C(CCC)N)=O | C13H24N4O
reactant | (3,5-Difluoro-phenyl)-hydroxy-acetic acid | FC=1C=C(C=C(C1)F)C(C(=O)O)O | C8H6F2O3
product | 2-[2-(3,5-Difluoro-phenyl)-2-hydroxy-acetylamino]-pentanoic acid [1-(1-ethyl-propyl)-1H-imidazol-4-yl]-amide | C(C)C(CC)N1C=NC(=C1)NC(C(CCC)NC(C(O)C1=CC(=CC(=C1)F)F)=O)=O | C21H28F2N4O3
